US08357679B2
A: Ethyl 4-(3-(cyclopropylmethyl)ureido)benzoate
To cyclopropylmethanamine (57.5 mmol, 4.99 ml, 4.09 g) in dichloromethane (40 mL) was added to ethyl 4-isocyanatobenzoate (52.3 mmol, 10 g) in dichloromethane (45 mL) and the reaction stirred overnight. The reaction was then concentrated under reduced pressure to give the title compound (14.7 g).

reactant | cyclopropylmethanamine | 57.5 mmol, 4.99 ml, 4.09 g | C1(CC1)CN | C4H9N
reactant | ethyl 4-isocyanatobenzoate | 52.3 mmol, 10 g | N(=C=O)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO3
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | Ethyl 4-(3-(cyclopropylmethyl)ureido)benzoate | 14.7 g | C1(CC1)CNC(NC1=CC=C(C(=O)OCC)C=C1)=O | C14H18N2O3
